US06018020
0.065 g (0.06 mmol) of N2-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-N1-[1(RS)-(dimethoxymethyl)-2-(3-thienyl)ethyl]-L-leucinamide was dissolved in 10 ml of dichloromethane/trifluoroacetic acid (1:1) containing 3 drops of water. The solution was stirred for 3 hours at room temperature. After removal of the solvent by evaporation the crude product was chromatographed on silica gel using dichloromethane:methanol:acetic acid:water (120:15:3:2) as the eluent to give 0.035 g of 2(RS)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-3(3-thienyl)propionaldehyde as a white solid; MS: m/e 887.7 [M+H]+.

reactant | N2-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-N1-[1(RS)-(dimethoxymethyl)-2-(3-thienyl)ethyl]-L-leucinamide | 0.06 mmol, 0.065 g | C(C)(C)(C)OC(=O)CCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NC(CC1=CSC=C1)C(OC)OC | C56H88N6O14S
solvent | dichloromethane trifluoroacetic acid | 10 ml | ClCCl.FC(C(=O)O)(F)F
catalyst | water | 3 drops | O | H2O
product | [N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-3(3-thienyl)propionaldehyde | 0.035 g | C(=O)(O)CCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NC(C=O)CC1=CSC=C1 | C42H58N6O13S
